US09428499B2
To a solution of 1-(3-nitrophenyl)cyclopropanecarbonitrile (1.6 g, 8.50 mmol) in 2-Propanol (50 ml) was added triethylbenzylammonium chloride (0.058 g, 0.255 mmol) and 25% aq KOH solution (5 ml). Resulting solution was stirred for 5 min. and H2O2 (10 ml, 98 mmol, ca. 30% solution in water) was added. Reaction mixture was heated at 50° C. for 4 h. Solvent was evaporated in vacuo and residue was suspended in water (200 ml). Precipitate was filtered and dried to obtain 1-(3-nitrophenyl)cyclopropane carboxamide (1.104 g, 5.36 mmol, 63% yield).

reactant | 1-(3-nitrophenyl)cyclopropanecarbonitrile | 8.50 mmol, 1.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C1(CC1)C#N | C10H8N2O2
reactant | KOH | 5 ml | [OH-].[K+]
reactant | H2O2 | 98 mmol, 10 ml | OO | H2O2
solvent | 2-Propanol | 50 ml | CC(C)O | C3H8O
catalyst | triethylbenzylammonium chloride | 0.255 mmol, 0.058 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 1-(3-nitrophenyl)cyclopropane carboxamide | 5.36 mmol, 1.104 g, 63% yield | [N+](=O)([O-])C=1C=C(C=CC1)C1(CC1)C(=O)N | C10H10N2O3
